US08895571B2
Step C: 2-{(2S)-3-cyclopropyl-2-[5-(1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]propyl}-1H-isoindole-1,3(2H)-dione
A mixture of 2-[(2S)-2-amino-3-cyclopropylpropyl]-1H-isoindole-1,3(2H)-dione hydrochloride (257.75 mg, 0.91806 mmol), methyl 4-bromo-2-(bromomethyl)-benzoate (275.80 mg, 0.89555 mmol), N,N-diisopropylethylamine (0.50 mL, 2.9 mmol) and 1,4-dioxane (5.0 mL, 64 mmol) was stirred at 130° C. for 2 hours under microwave irradiation. After the reaction was completed, 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (250.1 mg, 1.202 mmol), bis(tri-t-butylphosphine)palladium (51.1 mg, 0.100 mmol) and water were added. The reaction mixture was stirred at 110° C. for 40 mins under microwave irradiation. Direct purification on prep.HPLC afforded 56 mg (14.2% yield) of the desired final compound. LC-MS found: 441.1 (M+H)+.

reactant | 2-[(2S)-2-amino-3-cyclopropylpropyl]-1H-isoindole-1,3(2H)-dione hydrochloride | 0.91806 mmol, 257.75 mg | Cl.N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1CC1
reactant | methyl 4-bromo-2-(bromomethyl)-benzoate | 0.89555 mmol, 275.80 mg | BrC1=CC(=C(C(=O)OC)C=C1)CBr | C9H8Br2O2
reactant | N,N-diisopropylethylamine | 2.9 mmol, 0.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,4-dioxane | 64 mmol, 5.0 mL | O1CCOCC1 | C4H8O2
reactant | 1-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.202 mmol, 250.1 mg | CN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
catalyst | bis(tri-t-butylphosphine)palladium | 0.100 mmol, 51.1 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | water | O | H2O
product | 2-{(2S)-3-cyclopropyl-2-[5-(1-methyl-1H-pyrazol-5-yl)-1-oxo-1,3-dihydro-2H-isoindol-2-yl]propyl}-1H-isoindole-1,3(2H)-dione | 56 mg, 14.2% yield | C1(CC1)C[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)N1C(C2=CC=C(C=C2C1)C1=CC=NN1C)=O | C26H24N4O3
